US07625922B2
4-Amino-3-(methylthio)phenol
Iron powder (1.59 g, 28.5 mmol) was added slowly to a solution of 3-(methylthio)-4-nitrophenol (1.76 g, 9.5 mmol) in acetic acid (50 mL) and ethanol (5 mL). The mixture was stirred 17 hours at room temperature.v Then iron was removed with a magnet and the slurry mixture filtered. The filtrate was diluted in water (100 mL) and neutralised with a saturated solution of Na2CO3. The mixture was extracted with DCM, and the combined organic layer dried over Na2SO4. Then, the solvent was evaporated under vacuum to provide the title compound (780 mg, 53%) as a grey powder. 1H-NMR (δ, ppm, DMSO-d6): 2.29 (s, 3H, HMe), 4.48 (bs, 2H, NH2), 6.44 (d, 1H, Harom 5, J6-5=8.5 Hz), 6.54 (d, 1H, Harom 6, J6-5=8.5 Hz), 6.61 (s, 1H, Harom 2), 8.58 (broad s, 1H, OH). GC-MS (m/z): 155.09

reactant | 3-(methylthio)-4-nitrophenol | 9.5 mmol, 1.76 g | CSC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO3S
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Iron | 28.5 mmol, 1.59 g | [Fe] | Fe
product | 4-Amino-3-(methylthio)phenol | 780 mg, 53% | NC1=C(C=C(C=C1)O)SC | C7H9NOS
